US07696234B2
[2-Fluoro-4-(pyridin-2-ylmethoxy)-phenyl]-(2-(S)-pyrrolidin-1-ylmethyl-pyrrolidin-1-yl)-methanone dihydrochloride salt
To a solution of [2-Fluoro-4-(pyridin-2-ylmethoxy)-phenyl]-(2-(S)-pyrrolidin-1-ylmethyl-pyrrolidin-1-yl)-methanone (0.386 g, 1 mmol) in methanol (3 mL) is added a solution of 4M HCl in dioxane (2 mmol). The mixture is concentrated, and the oily residue is dissolved in CH2Cl2 and again concentrated and dried. MS (ES+) 384

reactant | [2-Fluoro-4-(pyridin-2-ylmethoxy)-phenyl]-(2-(S)-pyrrolidin-1-ylmethyl-pyrrolidin-1-yl)-methanone | 1 mmol, 0.386 g | FC1=C(C=CC(=C1)OCC1=NC=CC=C1)C(=O)N1[C@@H](CCC1)CN1CCCC1 | C22H26FN3O2
reactant | HCl | 4M | Cl | ClH
reactant | dioxane | 2 mmol | O1CCOCC1 | C4H8O2
solvent | methanol | 3 mL | CO | CH4O
product | [2-Fluoro-4-(pyridin-2-ylmethoxy)-phenyl]-(2-(S)-pyrrolidin-1-ylmethyl-pyrrolidin-1-yl)-methanone dihydrochloride salt | Cl.Cl.FC1=C(C=CC(=C1)OCC1=NC=CC=C1)C(=O)N1[C@@H](CCC1)CN1CCCC1 | InChI=1S/C22H26FN3O2.2ClH/c23-21-14-19(28-16-17-6-1-2-10-24-17)8-9-20(21)22(27)26-13-5-7-18(26)15-25-11-3-4-12-25;;/h1-2,6,8-10,14,18H,3-5,7,11-13,15-16H2;2*1H/t18-;;/m0../s1
